US03957580
The wet immobilized cells of Example 1 (47.3 g) were placed in 100 ml of an aqueous solution containing 10 g of glucose, and the mixture was stirred with aeration for 21 hours at room temperature. A 99% conversion to a mixture of gluconic acid and delta gluconolactone was obtained, and 75% of the original enzyme activity was recovered.

reactant | glucose | 10 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | gluconic acid | O=C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H12O7
product | delta gluconolactone | C([C@@H]1[C@H]([C@@H]([C@H](C(=O)O1)O)O)O)O | C6H10O6
